US04188397
2,2'[1,3-Propanediylbis(thio)]bis[4,5-bis(4-fluorophenyl)1H-imidazole]
A mixture of 4,5-bis(4-fluorophenyl)-1H-imidazole-2-thione (8 g, 0.028 mol) and 1,3-dibromopropane (2.8 g, 0.014 mol) in dioxane (175 ml) was refluxed for 2.5 hours. After cooling, ether (300 ml) was added and the resulting white solid was collected by filtration, washed with ether and recrystallized from dioxane-ether to give the title compound as its dihydrobromide salt (hydrate), m.p. 176°-178°.

reactant | 4,5-bis(4-fluorophenyl)-1H-imidazole-2-thione | 0.028 mol, 8 g | FC1=CC=C(C=C1)C=1NC(NC1C1=CC=C(C=C1)F)=S | C15H10F2N2S
reactant | 1,3-dibromopropane | 0.014 mol, 2.8 g | BrCCCBr | C3H6Br2
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | dioxane | 175 ml | O1CCOCC1 | C4H8O2
product | 2,2'[1,3-Propanediylbis(thio)]bis[4,5-bis(4-fluorophenyl)1H-imidazole] | C(CCSC=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)SC=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C33H24F4N4S2
